US09428470B2
B) tert-Butyl 3-(4-(4-(benzyloxy)-2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl)-3,6-dihydropyridin-1(2H)-yl)propanoate
A mixture of di-tert-butyl 2,2′-(3-(5-(benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate (200 mg), tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridin-1(2H)-yl)propanoate (144 mg), [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride (26.1 mg), a 2 M aqueous cesium carbonate solution (0.5 mL), and DME (2 mL) was stirred at 90 C for 2 hours under microwave irradiation under an argon atmosphere. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (245 mg).

reactant | di-tert-butyl 2,2′-(3-(5-(benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate | 200 mg | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)Br | C28H34BrNO6
reactant | tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridin-1(2H)-yl)propanoate | 144 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)CCC(=O)OC(C)(C)C)C | C18H32BNO4
reactant | cesium carbonate | 2 M, 0.5 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DME | 2 mL | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloride | 26.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
product | tert-Butyl 3-(4-(4-(benzyloxy)-2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl)-3,6-dihydropyridin-1(2H)-yl)propanoate | 245 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C=1CCN(CC1)CCC(=O)OC(C)(C)C)C1=NOC(C1)(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C | C40H54N2O8
